US07790720B2
4.2 Synthesis of 2-[4-(3-chloropropoxy)phenyl]-4-[(2-methylpyrrolidin-1-yl)methyl]-1,3-oxazole ax66
A mixture of 1-bromo-3-chloropropane (0.7 mmol, 2 eq, 11.5 mg), potassium carbonate (0.7 mmol, 2 eq, 98 mg) and 4-{4-[(2-methylpyrrolidin-1-yl)methyl]-1,3-oxazol-2-yl}phenol ax65 (0.35 mmol, 1 eq, 91.5 mg) in acetone (1.25 ml) is stirred at 56° C. overnight. The mixture is then filtered, washed with acetone (2×500 μl), and the solvent is removed under reduced pressure. The residue is dissolved in 3.5 ml of dichloromethane and washed twice with water (2×3.5 ml) and finally with brine (3.5 ml). The organic layer is dried over magnesium sulfate, filtered and the solvent is removed under reduced pressure. The crude product is used directly in the next step.

reactant | 1-bromo-3-chloropropane | 0.7 mmol, 11.5 mg, 2 eq | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.7 mmol, 98 mg, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 4-{4-[(2-methylpyrrolidin-1-yl)methyl]-1,3-oxazol-2-yl}phenol | CC1N(CCC1)CC=1N=C(OC1)C1=CC=C(C=C1)O | C15H18N2O2
solvent | acetone | 1.25 ml | CC(=O)C | C3H6O
product | 2-[4-(3-chloropropoxy)phenyl]-4-[(2-methylpyrrolidin-1-yl)methyl]-1,3-oxazole | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)CN1C(CCC1)C | C18H23ClN2O2
